### PR TITLE
[Merged by Bors] - add minimum_of_length_pos_mem

### PR DESCRIPTION
**Pull request by Seasawher**
add `minimum_of_length_pos_mem` to `Mathlib/Data/List`

Co-authored-by: Eric Wieser <wieser.eric@gmail.com>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/List/MinMax.lean [hunk 1]
```diff
@@ -449,6 +449,11 @@ theorem minimum_of_length_pos_le_iff (h : 0 < l.length) :
     minimum_of_length_pos h ≤ b ↔ l.minimum ≤ b :=
   le_maximum_of_length_pos_iff (α := αᵒᵈ) h
 
+theorem minimum_of_length_pos_mem (h : 0 < l.length) :
```
Comment (eric-wieser) [inline Mathlib/Data/List/MinMax.lean:452]: Can you add the `maximum` version too?

Comment (Seasawher) [reply Mathlib/Data/List/MinMax.lean:452]: Yes! I have added the `maximum` version.

Comment (eric-wieser) [reply Mathlib/Data/List/MinMax.lean:452]: Thanks! Can you swap the order to match the surrounding file? Elsewhere it seems the maximum version of the lemma comes before the minimum

Comment (Seasawher) [reply Mathlib/Data/List/MinMax.lean:457]: Yes! it is done.

File: Mathlib/Data/List/MinMax.lean [hunk 2]
```diff
@@ -449,6 +449,16 @@ theorem minimum_of_length_pos_le_iff (h : 0 < l.length) :
     minimum_of_length_pos h ≤ b ↔ l.minimum ≤ b :=
   le_maximum_of_length_pos_iff (α := αᵒᵈ) h
 
+theorem maximum_of_length_pos_mem (h : 0 < l.length) :
+    maximum_of_length_pos h ∈ l := by
+  apply maximum_mem
+  simp only [coe_maximum_of_length_pos]
+
+theorem minimum_of_length_pos_mem (h : 0 < l.length) :
+    minimum_of_length_pos h ∈ l := by
```
Comment (eric-wieser) [inline Mathlib/Data/List/MinMax.lean:458]: As a final trick; you should be able to prove this using the `(α := αᵒᵈ)` trick the minimum lemmas in the rest of the file use

Comment (Seasawher) [reply Mathlib/Data/List/MinMax.lean]: Thanks! it is done.

**Review by eric-wieser — APPROVED** [review]
bors d+

Thanks!
